US07625914B2
2 g (1 mass equivalent) of palladium-on-charcoal are added to a solution of 2 g (4.6 mmol) of N-{4-[4-(2,4-dioxothiazolidin-5-ylidenemethyl)phenyl]thiophen-2-ylmethyl}-N-methylbenzamide in 20 ml of dioxane that has been degassed beforehand, and the reaction medium is placed under 3 atm of hydrogen, at 50° C. for 6 hours. After filtering off the palladium through Celite, the filtrate is concentrated under vacuum. The residue obtained is purified by chromatography on a column of silica eluted with a 9.5/0.5 dichloromethane/methanol mixture. 1.5 g (75%) of N-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenyl]thiophen-2-ylmethyl}N-methylbenzamide are obtained in the form of a solid with a melting point of 134° C.

reactant | N-{4-[4-(2,4-dioxothiazolidin-5-ylidenemethyl)phenyl]thiophen-2-ylmethyl}-N-methylbenzamide | 4.6 mmol, 2 g | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C=1C=C(SC1)CN(C(C1=CC=CC=C1)=O)C | C23H18N2O3S2
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | palladium-on-charcoal | 2 g | [Pd] | Pd
product | N-{4-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenyl]thiophen-2-ylmethyl}N-methylbenzamide | 1.5 g, 75% | O=C1SC(C(N1)=O)CC1=CC=C(C=C1)C=1C=C(SC1)CN(C(C1=CC=CC=C1)=O)C | C23H20N2O3S2
